US07732626B2
[(3S)-6-({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid
To a solution of methyl[(3S)-6-({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate (0.482 g, 0.830 mmol) in a mixed solvent of methanol (2 mL) and tetrahydrofuran (4 mL) was added 2 M aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was diluted with water, acidified with 1 M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitated crystals were recrystallized from heptane-ethyl acetate to give the title compound (0.358 g, yield 76%) as colorless crystals.

reactant | methyl[(3S)-6-({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 0.830 mmol, 0.482 g | COC(C[C@@H]1COC2=C1C=CC(=C2)OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCC2(CCS(CC2)(=O)=O)O)C)=O | C32H36O8S
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium hydroxide | 2 M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | [(3S)-6-({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetic acid | 0.358 g, yield 76% | OC1(CCS(CC1)(=O)=O)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1)C | C31H34O8S
